US08133910B2
2-Ethyl-4-[5-(5-isobutyl-thiophen-2-yl)-[1,3,4]oxadiazol-2-yl]-6-methyl-phenol is prepared in analogy to Example 29 from 5-isobutyl-thiophene-2-carboxylic acid and 4-benzyloxy-3-ethyl-5-methyl-benzoic acid hydrazide; LC-MS: tR=1.03 min, [M+1]+=343.22.

reactant | 5-isobutyl-thiophene-2-carboxylic acid | C(C(C)C)C1=CC=C(S1)C(=O)O | C9H12O2S
reactant | 4-benzyloxy-3-ethyl-5-methyl-benzoic acid hydrazide | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)NN)C=C1C)CC | C17H20N2O2
product | 2-Ethyl-4-[5-(5-isobutyl-thiophen-2-yl)-[1,3,4]oxadiazol-2-yl]-6-methyl-phenol | C(C)C1=C(C(=CC(=C1)C=1OC(=NN1)C=1SC(=CC1)CC(C)C)C)O | C19H22N2O2S
